US08497271B2
Part C. [(R)-2-Hydroxy-1-(4-hydroxy-2-methoxy-phenyl)-ethyl]-carbamic acid tert-butyl ester
A mixture of [(R)-1-(4-benzyloxy-2-methoxy-phenyl)-2-hydroxy-ethyl]-carbamic acid tert-butyl ester (136 mg, 0.365 mmol) and Pd/C (˜10 mg) in MeOH (4 ml) was stirred under H2 (1 atm) for overnight. The mixture was filtered and the filtrate was concentrated to give the titled compound (100 mg, 100%).

reactant | [(R)-1-(4-benzyloxy-2-methoxy-phenyl)-2-hydroxy-ethyl]-carbamic acid tert-butyl ester | 0.365 mmol, 136 mg | C(C)(C)(C)OC(N[C@@H](CO)C1=C(C=C(C=C1)OCC1=CC=CC=C1)OC)=O | C21H27NO5
solvent | MeOH | 4 ml | CO | CH4O
catalyst | Pd/C | ˜10 mg | [Pd] | Pd
product | [(R)-2-Hydroxy-1-(4-hydroxy-2-methoxy-phenyl)-ethyl]-carbamic acid tert-butyl ester | 100 mg, 100% | C(C)(C)(C)OC(N[C@@H](CO)C1=C(C=C(C=C1)O)OC)=O | C14H21NO5
